US06087336
Methyl acrylate (2 g), triethylamine (2.35 g) and palladium acetate (0.05 g) was added to 2-cyano-5-iodobenzo[b]thiophene (4.8 g) in DMF (25 ml) and the mixture was stirred under argon at 90° C. for 30 minutes. The mixture was allowed to cool and then added to water (50 ml). The solid which precipitated was collected by filtration and dissolved in chloroform. Activated charcoal was added and the mixture filtered and the filtrate dried (MgSO4). Solvent was removed by evaporation to give methyl3-(2-cyanobenzo[b]thiophen-5-yl)acrylate (2.5 g); NMR (d6 -DMSO): 3.75 (s, 3H), 6.7 (d, 1H), 7.8 (d, 1H), 8.0 (dd, 1H), 8.2 (d, 1H), 8.3 (d, 1H), 8.85 (s, 1H).

reactant | Methyl acrylate | 2 g | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 2.35 g | C(C)N(CC)CC | C6H15N
reactant | 2-cyano-5-iodobenzo[b]thiophene | 4.8 g | C(#N)C1=CC2=C(S1)C=CC(=C2)I | C9H4INS
reactant | water | 50 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.05 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl3-(2-cyanobenzo[b]thiophen-5-yl)acrylate | 2.5 g | COC(C=CC1=CC2=C(SC(=C2)C#N)C=C1)=O | C13H9NO2S
